US07728176B2
A 30-ml four-necked flask was equipped with a stirrer, a thermometer, a dropping funnel and a reflux condenser. 0.027 g (0.12 mmol) of palladium (II) acetate and 7 ml of N-methylpyrrolidinone were weighed in the flask, followed by stirring. Further, 0.079 g (0.12 mmol) of tricyclohexylphosphonium tetra-para-tolylborate obtained in Example B-16 was weighed in air and added into the flask. The flask was purged with argon, followed by stirring at 25° C. for 30 minutes. 0.404 g (3 mmol) of n-heptyl chloride was added, followed by stirring at 25° C. for 30 minutes. 2 ml (4.4 mmol) of 2.2M tetrahydrofuran solution of phenylmagnesium chloride was added dropwise at 25° C. over a period of 10 minutes, followed by stirring at 25° C. for 19 hours. After the completion of the reaction, 6 ml of tetrahydrofuran and 10 ml of saturated aqueous ammonium chloride solution were added, followed by separation. The organic phase was purified by column chromatography to afford 0.434 g of 1-phenylheptane (yield: 82 mol % based on n-heptyl chloride). The identification of the product was made by mass spectroscopy.

reactant | n-heptyl chloride | 3 mmol, 0.404 g | C(CCCCCC)Cl | C7H15Cl
reactant | phenylmagnesium chloride | C1(=CC=CC=C1)[Mg]Cl
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
catalyst | palladium (II) acetate | 0.12 mmol, 0.027 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tricyclohexylphosphonium tetra-para-tolylborate | 0.12 mmol, 0.079 g | C1(=CC=C(C=C1)[B-](C1=CC=C(C=C1)C)(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)C.C1(CCCCC1)[PH+](C1CCCCC1)C1CCCCC1
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | N-methylpyrrolidinone | 7 ml | CN1C(CCC1)=O | C5H9NO
solvent | tetrahydrofuran | 4.4 mmol, 2.2M, 2 ml | O1CCCC1 | C4H8O
product | 1-phenylheptane | 0.434 g | C1(=CC=CC=C1)CCCCCCC | C13H20
